US07732444B2
Intermediate 157: 3-(2-chloropyrimidin-4-yl)4-methylbenzaldehyde:
2,4 dichloropyrimidine and 4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzaldehyde was coupled following procedure A. The yield was 80%. LC-MS showed the product was >95% pure and had the expected M+H+ of 233. 1H NMR (Varian 300 MHz, CDCl3, shifts relative to the solvent peak at 7.24 ppm) δ 10.0 (s, 1H) 8.7 (s, 1H) 7.9 (d, 2H) 7.5 (d, 2H), 2.5 (s, 3H).

reactant | 2,4 dichloropyrimidine | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | 4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzaldehyde | CC1=C(C=C(C=O)C=C1)B1OC(C(O1)(C)C)(C)C | C14H19BO3
product | 3-(2-chloropyrimidin-4-yl)4-methylbenzaldehyde | yield was 80% | ClC1=NC=CC(=N1)C=1C=C(C=O)C=CC1C | C12H9ClN2O
